US07456176B2
Synthesis of [7-(2-chloro-5-methoxy-phenyl)-5-methyl-benzo[1,2,4]triazin-3-yl]-[3-(2-pyrrolidin-1-yl-ethylsulfanyl)-phenyl]-amine
7-(2-chloro-5-methoxy-phenyl)-5-methyl-benzo[1,2,4]triazin-3-ylamine (1.0 equiv., 083 mmol), 1-[2-(3-bromo-phenylsulfanyl)-ethyl]-pyrrolidine (1.5 equiv., 1.25 mmol), Xantphos (0.1 equiv., 0.084 mmol), palladium acetate (0.05 equiv., 0.042 mmol), and potassium-tert-butoxide (2.0 equiv., 1.66 mmol) were dissolved in 10 mL of dioxane, and argon was bubbled through the solution. The reaction was run under an argon blanket while refluxing at 100° C. for 18 h. The reaction was then cooled to room temperature, filtered to remove inorganics, extracted using EtOAc with saturated NaHCO3 and brine, dried over Na2SO4, and concentrated under reduced pressure. A crude material was precipitated using 1:5 (v/v) EtOAc/hexanes to afford a bright orange solid (311.8 mg, 74% yield). Rf=0.48.

reactant | 7-(2-chloro-5-methoxy-phenyl)-5-methyl-benzo[1,2,4]triazin-3-ylamine | 1.0 equiv. | ClC1=C(C=C(C=C1)OC)C1=CC2=C(N=C(N=N2)N)C(=C1)C | C15H13ClN4O
reactant | 1-[2-(3-bromo-phenylsulfanyl)-ethyl]-pyrrolidine | 1.25 mmol, 1.5 equiv. | BrC=1C=C(C=CC1)SCCN1CCCC1 | C12H16BrNS
reactant | Xantphos | 0.084 mmol, 0.1 equiv. | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | potassium-tert-butoxide | 1.66 mmol, 2.0 equiv. | CC(C)([O-])C.[K+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.042 mmol, 0.05 equiv. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | [7-(2-chloro-5-methoxy-phenyl)-5-methyl-benzo[1,2,4]triazin-3-yl]-[3-(2-pyrrolidin-1-yl-ethylsulfanyl)-phenyl]-amine | 311.8 mg, 74% yield | ClC1=C(C=C(C=C1)OC)C1=CC2=C(N=C(N=N2)NC2=CC(=CC=C2)SCCN2CCCC2)C(=C1)C | C27H28ClN5OS
